US07943624B2
2-Methoxy-6-[(4-methylphenyl)sulfanyl]nicotinic acid
To a suspension of 9.25 g (31.96 mmol) of methyl 2-methoxy-6-(4-methyl benzylthio)pyridine-3-carboxylate in 80 mL of methanol was added 38.36 mL (38.36 mmol) of 1N-sodium hydroxide aqueous solution, and the mixture was refluxed for 1 hour. After the reaction mixture was cooled to the room temperature, the solvent was removed under reduced pressure and the residue was diluted with water. Then 2N-HCl was added to the solution and the resultant precipitate was collected to obtain 8.92 g (quantitative) of the title compound.

reactant | methyl 2-methoxy-6-(4-methyl benzylthio)pyridine-3-carboxylate | 31.96 mmol, 9.25 g | COC1=NC(=CC=C1C(=O)OC)SCC1=CC=C(C=C1)C | C16H17NO3S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | 80 mL | CO | CH4O
product | 2-Methoxy-6-[(4-methylphenyl)sulfanyl]nicotinic acid | COC1=C(C(=O)O)C=CC(=N1)SC1=CC=C(C=C1)C | C14H13NO3S
